US04435405
Methyl iodide (0.85 g.) was added to a mixture of 2-(2-methylaminoethylthio)-3-phenylquinoline hydrochloride (1.65 g.) and potassium carbonate (1.65 g.) in dry ethanol (50 ml.) at ambient temperature. The mixture was stirred at ambient temperature for 3 hr. and the solvent was then evaporated. The residue was dissolved in water (50 ml.) and extracted with diethyl ether (3×25 ml.). The diethyl ether extract was washed with brine (25 ml.), dried (MgSO4), and the solvent evaporated. The residual oil was chromatographed on basic alumina (75 g., Brockmann Grade III), eluted with increasing concentrations of methylene dichloride in petroleum ether. The eluate with 50% v/v methylene dichloride in petroleum ether was evaporated. The residue was dissolved in diethyl ether (25 ml.) and ethereal hydrogen chloride added until precipitation was complete. The mixture was filtered and the solid residue was crystallised from methanol-ethyl acetate to give 2-(2-dimethylaminoethylthio)-3-phenylquinoline hydrochloride, m.p. 196°-8°.

reactant | Methyl iodide | 0.85 g | CI | CH3I
reactant | 2-(2-methylaminoethylthio)-3-phenylquinoline hydrochloride | 1.65 g | Cl.CNCCSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-dimethylaminoethylthio)-3-phenylquinoline hydrochloride | Cl.CN(CCSC1=NC2=CC=CC=C2C=C1C1=CC=CC=C1)C | InChI=1S/C19H20N2S.ClH/c1-21(2)12-13-22-19-17(15-8-4-3-5-9-15)14-16-10-6-7-11-18(16)20-19;/h3-11,14H,12-13H2,1-2H3;1H
